US08071624B2
(3S)-1-[(3-Chloro-2-methylphenyl)sulfonyl]-N-(cyclopropylmethyl)-N-(trans-4-hydroxycyclohexyl)piperidine-3-carboxamide
A mixture of (3S)-N-(cyclopropylmethyl)-N-(trans-4-hydroxycyclohexyl)piperidine-3-carboxamide hydrochloride (10 mg, 0.03 mmol), 3-chloro-2-methylbenzenesulfonyl chloride (7.1 mg, 0.03 mmol), triethylamine (11 μL, 0.08 mmol) in acetonitrile (0.2 mL) was stirred at r.t. for 1 hour, then purified with flash column. 5.1 mg (yield: 34%) final product was obtained. LCMS: m/z 468.9 (M+H)+.

reactant | (3S)-N-(cyclopropylmethyl)-N-(trans-4-hydroxycyclohexyl)piperidine-3-carboxamide hydrochloride | 0.03 mmol, 10 mg | Cl.C1(CC1)CN(C(=O)[C@@H]1CNCCC1)[C@@H]1CC[C@H](CC1)O
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | 0.03 mmol, 7.1 mg | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
reactant | triethylamine | 0.08 mmol, 11 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 0.2 mL | C(C)#N | C2H3N
product | (3S)-1-[(3-Chloro-2-methylphenyl)sulfonyl]-N-(cyclopropylmethyl)-N-(trans-4-hydroxycyclohexyl)piperidine-3-carboxamide | 5.1 mg, yield: 34% | ClC=1C(=C(C=CC1)S(=O)(=O)N1C[C@H](CCC1)C(=O)N([C@@H]1CC[C@H](CC1)O)CC1CC1)C | C23H33ClN2O4S
